US05831092
Guanosine (5.7 g; 20.0 mmol) was dissolved in 13.2 ml of dimethylsulfoxide. To this solution were added sodium iodide (0.6 g; 4 mmol) and 4-methoxybenzyl chloride (6.8 ml; 50.2 mmol), and the mixture was stirred at room temperature for 19 h. Conc. hydrochloric acid (10 ml) was added thereto, and stirred at 45° C. for 1 h. The mixture was cooled down to room temperature. Methanol (50 ml) was added thereto, and the mixture was stirred at room temperature for 3 h. The crystals precipitated were filtered, washed well with methanol (20 ml×3), and then dried at 50° C. under reduced pressure to obtain 2.5 g of 7-(4-methoxybenzyl)guanine dihydrochloride (34.8%).

reactant | Guanosine | 20.0 mmol, 5.7 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O5
reactant | sodium iodide | 4 mmol, 0.6 g | [I-].[Na+]
reactant | 4-methoxybenzyl chloride | 50.2 mmol, 6.8 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | dimethylsulfoxide | 13.2 ml | CS(=O)C | C2H6OS
solvent | Methanol | 50 ml | CO | CH4O
product | 7-(4-methoxybenzyl)guanine dihydrochloride | 2.5 g, 34.8% | Cl.Cl.COC1=CC=C(CN2C=NC=3N=C(NC(C23)=O)N)C=C1 | InChI=1S/C13H13N5O2.2ClH/c1-20-9-4-2-8(3-5-9)6-18-7-15-11-10(18)12(19)17-13(14)16-11;;/h2-5,7H,6H2,1H3,(H3,14,16,17,19);2*1H
